US08580957B2
A flask was charged with 2-chloropyrazine (138 mg, 1.209 mmol) and treated at room temperature under nitrogen with a solution of 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-amino-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate (for a preparation see intermediate 55) (250 mg, 0.605 mmol) in 1,4-dioxane (5 mL). 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (47.6 mg, 0.121 mmol), sodium tert-butoxide (116 mg, 1.209 mmol) and tris(dibenzylideneacetone)dipalladium(0) (55.4 mg, 0.060 mmol) were added and the resulting mixture was stirred under nitrogen at 110° C. for 16 h then cooled to room temperature and partitioned between EtOAc (25 mL) and water (25 mL). The layers were separated and the aqueous phase was extracted with EtOAc (25 mL). The combined organic phases were washed with brine (50 mL), dried over Na2SO4 and concentrated in vacuovacuo. Purification of this residue on SP4 using a 25 G silica cartridge (gradient:1 to 5% MeOH in DCM) gave 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrazinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate (204.6 mg, 0.344 mmol, 56.9% yield) as an orange oil.

reactant | 2-chloropyrazine | 1.209 mmol, 138 mg | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 1,1-dimethylethyl[2-(4-{(2S,4R)-1-acetyl-2-methyl-4-amino-1,2,3,4-tetrahydro-6-quinolinyl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | CC(C)(C)CN(C([O-])=O)CCN1N=CC(=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)N
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.121 mmol, 47.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 1.209 mmol, 116 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.060 mmol, 55.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-dimethylethyl (2-{4-[(2S,4R)-1-acetyl-2-methyl-4-(2-pyrazinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | 0.344 mmol, 204.6 mg, 56.9% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=NN(C1)CCN(C(OC(C)(C)C)=O)C)NC1=NC=CN=C1)C | C27H35N7O3
